US06800629B2
In 1 ml of methanol was dissolved 75 mg of methyl 4-[4-(hydroxymethyl)-2-cyclopenten-1-yl]-3-oxo-3,4-dihydro-2-pyrazinecarboxylate. At room temperature, 25% aqueous solution of ammonia was added and stirred for 13 hours, and then the solvent was removed under reduced pressure. Isopropanol was added to the residue, and the solid product was collected by filtration to obtain 20 mg of 4-[4-(hydroxymethyl)-2-cyclopenten-1-yl]-3-oxo-3,4-dihydro-2-pyrazinecarboxamide as a white-colored solid product.

reactant | methyl 4-[4-(hydroxymethyl)-2-cyclopenten-1-yl]-3-oxo-3,4-dihydro-2-pyrazinecarboxylate | 75 mg | OCC1C=CC(C1)N1C(C(=NC=C1)C(=O)OC)=O | C12H14N2O4
reactant | ammonia | N | H3N
solvent | methanol | 1 ml | CO | CH4O
product | 4-[4-(hydroxymethyl)-2-cyclopenten-1-yl]-3-oxo-3,4-dihydro-2-pyrazinecarboxamide | 20 mg | OCC1C=CC(C1)N1C(C(=NC=C1)C(=O)N)=O | C11H13N3O3
